US09212187B2
1-Ethyl-3,3,5-trimethyl-7-{[(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Trifluoroacetic acid (43.2 mg) was added to a dichloromethane solution (5 ml) of N-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)carbamic acid tert-butyl ester (208 mg), and the mixture was stirred at room temperature overnight. A saturated sodium bicarbonate solution was added to the reaction mixture, followed by extraction using dichloromethane, and condensed under reduced pressure to give the title compound(148 mg) as a white amorphous.

reactant | Trifluoroacetic acid | 43.2 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)carbamic acid tert-butyl ester | 208 mg | C(C)(C)(C)OC(N(CC1=CC=C2CCC(N(C2=C1)C)=O)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C31H40N4O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Ethyl-3,3,5-trimethyl-7-{[(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 148 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCC2=CC=C1CCC(N(C1=C2)C)=O | C26H32N4O3
